US04000275
6-(n-Propyl)-3-nitrobenzimidazo[2,1-b]quinazolin-12(6H)-one is prepared with 3-nitrobenzimidazo[2,1-b]quinazolin-12(6H)one and n-propyl bromide.

reactant | 3-nitrobenzimidazo[2,1-b]quinazolin-12(6H)one | [N+](=O)([O-])C1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O | C14H8N4O3
reactant | n-propyl bromide | CCCBr | C3H7Br
product | 6-(n-Propyl)-3-nitrobenzimidazo[2,1-b]quinazolin-12(6H)-one | C(CC)N1C2=C(C=CC=C2)N2C1=NC1=CC(=CC=C1C2=O)[N+](=O)[O-] | C17H14N4O3
